US07659297B2
Ethyl-2-hydroxy-4-(2-methoxy-3-methylphenyl)-4-methyl-2-(trifluoromethyl)pentanoate
20 g (71.90) of ethyl-4-(2-methoxy-3-methylphenyl)-4-methyl-2-oxopentanoate and 12.3 g (86.28 mmol) of (trifluoromethyl)trimethylsilane are introduced into 117 ml of tetrahydrofuran. At room temperature, 180 mg of tetrabutylammonium fluoride is added (heating to about 35° C.). After stirring overnight, 22.7 g (71.90 mmol) of tetrabutylammonium fluoride is added, and the batch is stirred for three hours at room temperature. After dilution with methyl tert-butyl ether, the organic phase is washed three times with water and once with brine. After the solvent is dried and spun off, the residue is chromatographed on silica gel (mobile solvent: ethyl acetate/hexane). 16.33 g (65.2%) of the desired compound is isolated.

reactant | ethyl-4-(2-methoxy-3-methylphenyl)-4-methyl-2-oxopentanoate | 20 g | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)C)OC)=O)=O | C16H22O4
reactant | (trifluoromethyl)trimethylsilane | 86.28 mmol, 12.3 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 71.90 mmol, 22.7 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutylammonium fluoride | 180 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 117 ml | O1CCCC1 | C4H8O
product | Ethyl-2-hydroxy-4-(2-methoxy-3-methylphenyl)-4-methyl-2-(trifluoromethyl)pentanoate | 16.33 g, 65.2% | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)C)OC)(C(F)(F)F)O)=O | C17H23F3O4
